US07714168B2
According to the same method as that of Production Example 1, (1S)-1,2,2-trimethylpropylamine was used in place of 2,2-dimethylpropylamine, and 4-(2-propynyloxy)-3-fluorobenzoyl chloride was used in place of 4-(2-propynyloxy)-3-methoxybenzoyl chloride to obtain N-((1S)-1,2,2-trimethylpropyl)-3-fluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 25 of the present invention) represented by the formula:

reactant | (1S)-1,2,2-trimethylpropylamine | C[C@@H](C(C)(C)C)N | C6H15N
reactant | 4-(2-propynyloxy)-3-fluorobenzoyl chloride | C(C#C)OC1=C(C=C(C(=O)Cl)C=C1)F | C10H6ClFO2
product | N-((1S)-1,2,2-trimethylpropyl)-3-fluoro-4-(2-propynyloxy)benzamide | C[C@@H](C(C)(C)C)NC(C1=CC(=C(C=C1)OCC#C)F)=O | C16H20FNO2
